US05597918
To a suspension of 5.8 g of 8-chloroacetyl-4,4a,5,6-tetrahydro-2-(4-methylphenyl)thieno-[2,3-h]cinnolin-3(2H)-one in 100 ml of acetic acid was added 12 g of potassium acetate and the mixture was stirred for 5 hours. The mixture was poured into ice-cold water and the precipitate was collected by filtration. The filtrate was extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue and the precipitate were combined and chromatographed on a silica gel (SiO2 :200 g) column using chloroform as an eluent. The resulting crystals were recrystallized from a mixed solvent of chloroform and methanol to give 4.4 g of 8-acetoxyacetyl-4,4a, 5,6-tetrahydro-2-(4-methylphenyl)thieno-[2,3-h]cinnolin-3(2H)-one as a white powder, melting at 144°-145° C.

reactant | 8-chloroacetyl-4,4a,5,6-tetrahydro-2-(4-methylphenyl)thieno-[2,3-h]cinnolin-3(2H)-one | 5.8 g | ClCC(=O)C1=CC2=C(CCC3CC(N(N=C23)C2=CC=C(C=C2)C)=O)S1 | C19H17ClN2O2S
reactant | potassium acetate | 12 g | C(C)(=O)[O-].[K+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 8-acetoxyacetyl-4,4a, 5,6-tetrahydro-2-(4-methylphenyl)thieno-[2,3-h]cinnolin-3(2H)-one | 4.4 g | C(C)(=O)OCC(=O)C1=CC2=C(CCC3CC(N(N=C23)C2=CC=C(C=C2)C)=O)S1 | C21H20N2O4S
